US07238693B2
Preparation of a Library of Molecules Derived from 2-ethoxyaniline
5 μl of TEA (0.033 mmol, 1.1 eq) is added then 500 μl of piperazine (0.03 mmol, 1 eq) dissolved in DMF to 300 μl of 0.2 M 2-bromoethyl-N-(2-ethoxyphenyl)carbamate (0.06 mmol, 2 eq) dissolved in DMF. After 18 hours at room temperature and evaporation of the solvents, the mixtures are taken up in 1 ml of CH2Cl2 and treated with isocyanate resin (Argonaut, 1.51 mmol/g, 0.09 mmol/g, 0.09 mmol, 3 eq) for 18 hours. Next, the mixtures are purified on cation exchange resins according to the protocol described hereinabove. The desired compounds are then obtained after elimination of the solvents.

reactant | piperazine | 0.03 mmol, 500 μl, 1 eq | N1CCNCC1 | C4H10N2
reactant | 2-bromoethyl-N-(2-ethoxyphenyl)carbamate | 0.06 mmol, 0.2 M, 300 μl, 2 eq | BrCCOC(NC1=C(C=CC=C1)OCC)=O | C11H14BrNO3
reactant | isocyanate | 0.09 mmol, 3 eq | [N-]=C=O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-ethoxyaniline | C(C)OC1=C(N)C=CC=C1 | C8H11NO
